US08383615B2
Step 2: Synthesis of (S)-1-(4-Chloro-phenyl)-4-oxo-azetidine-2-carboxylic acid (3-tert-butyl-isoxazol-5-yl)-amide
To a cold slurry of (S)-1-(4-Chloro-phenyl)-4-oxo-azetidine-2-carboxylic acid (0.2 g; 1.037 mmol) and 5-amino-3-tert-butylisoxazole (0.145 g; 1.037 mmol) in pyridine (1.258 mL; 15.555 mmol) is added phosphorous oxychloride (0.116 mL; 1.244 mmol). The mixture is stirred at 0° C. for 30 minutes and then diluted with water and extracted with ethyl acetate several times. The organics are combined and washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification by preparative HPLC affords title compound, m/z 348 [M+H+]

reactant | (S)-1-(4-Chloro-phenyl)-4-oxo-azetidine-2-carboxylic acid | 1.037 mmol, 0.2 g | ClC1=CC=C(C=C1)N1[C@@H](CC1=O)C(=O)O | C10H8ClNO3
reactant | 5-amino-3-tert-butylisoxazole | 1.037 mmol, 0.145 g | NC1=CC(=NO1)C(C)(C)C | C7H12N2O
reactant | pyridine | 15.555 mmol, 1.258 mL | N1=CC=CC=C1 | C5H5N
reactant | phosphorous oxychloride | 1.244 mmol, 0.116 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
product | (S)-1-(4-Chloro-phenyl)-4-oxo-azetidine-2-carboxylic acid (3-tert-butyl-isoxazol-5-yl)-amide | C(C)(C)(C)C1=NOC(=C1)NC(=O)[C@H]1N(C(C1)=O)C1=CC=C(C=C1)Cl | C17H18ClN3O3
